US04421690
A solution of 123.0 mL (0.123 mol) of 1.0 M of borane in tetrahydrofuran was added dropwise at 0° to a mixture of 12.4 g (0.068 mol) of ethyl 2,2-difluoro-3-carboxypropionate in 70 mL of dry tetrahydrofuran. The reaction mixture was stirred at 0° for 18 hr then was quenched by adding 40 mL of water dropwise. The solution was saturated with solid sodium chloride and the product was isolated with ether. The ether layers were washed with saturated aqueous sodium bicarbonate and brine. The solution was dried over anhydrous magnesium sulfate, filtered, and evaporated to dryness to yield ethyl 2,2-difluoro-4-hydroxybutyrate. NMR (CDCl3) δ4.32 (quartet, 2, 2, J=7 Hz), 3.87 (triplet, 2, J=6 Hz), 2.36 (multiplet, 2) and 1.35 ppm (triplet, 3, J=7 Hz).

reactant | borane | 0.123 mol, 1.0 M, 123.0 mL | B | BH3
reactant | ethyl 2,2-difluoro-3-carboxypropionate | 0.068 mol, 12.4 g | FC(C(=O)OCC)(CC(=O)O)F | C6H8F2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | ethyl 2,2-difluoro-4-hydroxybutyrate | FC(C(=O)OCC)(CCO)F | C6H10F2O3
